US05889002
a) 1-Methyl-5-sulfamoylpyrazole-4-carbohydrazide
Ethyl 1-methyl-5sulfamoylpyrazole-4-carboxylate (1.0 g), prepared according to Bellemin and Festal, J. Heterocycl. Chem. 1984, 21, 1017, was stirred with 1 ml of hydrazine monohydrate at room temperature for 3 h and then evaporated to dryness. The residue was taken up in 5 ml of water and extracted with 25 ml of dichloromethane. The aqueous phase was evaporated to give 0.85 g (90%) of the title compound as a slowly crystallizing oil. Trituration with 5 ml of a 2:1 mixture of methanol and ethyl acetate gave a pure product: m.p. 172°-173° C.

reactant | Ethyl 1-methyl-5sulfamoylpyrazole-4-carboxylate | 1.0 g | CN1N=CC(=C1S(N)(=O)=O)C(=O)OCC | C7H11N3O4S
reactant | hydrazine monohydrate | 1 ml | O.NN
product | 1-Methyl-5-sulfamoylpyrazole-4-carbohydrazide | 0.85 g, 90% | CN1N=CC(=C1S(N)(=O)=O)C(=O)NN | C5H9N5O3S
